US06509328B1
3-[3-(2-Methoxymethylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 3-(2-methoxymethylsulfanyl-imidazol-1-yl)-benzoate [prepared by esterification of 3-(2-methoxymethylsulfanyl-imidazol-1-yl)-benzoic acid [CAS-No. 108035-46-7] with conc. H2SO4 in EtOH, followed by treatment with chloromethylmethyl ether and NaH in THF/DMF] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as an orange oil (1.82 g).

reactant | ethyl 3-(2-methoxymethylsulfanyl-imidazol-1-yl)-benzoate | COCSC=1N(C=CN1)C=1C=C(C(=O)OCC)C=CC1 | C14H16N2O3S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-[3-(2-Methoxymethylsulfanyl-imidazol-1-yl)-phenyl]-3-oxo-propionic Acid tert.-Butyl Ester | 1.82 g | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)N1C(=NC=C1)SCOC)=O | C18H22N2O4S
